US07232821B2
3-(2-Bromo-cyclopent-1-enyl)benzoic acid ethyl ester
(2-Bromo-cyclopent-1-enyl)trimethyl stannane (˜80% pure) (13.150 g, 43.7 mmol), ethyl-3-iodobenzoate (24.000 g, 87.4 mmol), triphenylarsine (4.000 g) and tris(dibenzylideneacetone)palladium (0) (1.500 g), were heated in dimethylformamide (20 mL) at 100° C., under nitrogen for 92 hours. The reaction mixture was then filtered through highflo, thoroughly washed with dichloromethane, reduced to an oil, and purified by chromatography with iso-hexane containing ether (2%–50%) to give the title compound (4.000 g, 28%).

reactant | (2-Bromo-cyclopent-1-enyl)trimethyl stannane | 43.7 mmol, 13.150 g | BrC1=C(CCC1)[Sn](C)(C)C
reactant | ethyl-3-iodobenzoate | 87.4 mmol, 24.000 g | C(C)OC(C1=CC(=CC=C1)I)=O | C9H9IO2
reactant | triphenylarsine | 4.000 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-(2-Bromo-cyclopent-1-enyl)benzoic acid ethyl ester | 4.000 g, 28% | C(C)OC(C1=CC(=CC=C1)C1=C(CCC1)Br)=O | C14H15BrO2
